US09402841B2
Step C: (S)-tert-butyl 3-((7-chloro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (710 mg) in dioxane (10 mL) was added CDI (42.6 mg, 2.63 mmol). The resulting mixture was heated to reflux for 2 hours. The reaction mixture was concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (130 mg, 17% over 2 steps). ESI-MS m/z [M+H]+ 431.

reactant | (S)-tert-butyl 3-((7-chloro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 710 mg | ClC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H25ClN6O2
reactant | CDI | 2.63 mmol, 42.6 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 3-((7-chloro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 130 mg, 17% | ClC1=CC=C2C=C(N=C(C2=C1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H23ClN6O3
